US05380741
Preparation of 2-(4-chlorophenyl)-4-(1,2,4-triazol-1-ylmethyl)-4-hydroxy-1-oxaspiro[2.5]octane (compound No. 7)
A mixture of 9 g of 2-(4-chlorobenzylidene)-1-(1,2,4-triazol-1-ylmethyl)cyclohexan-1-ol and 14.8 g of m-chloroperbenzoic acid in 50 ml of dichloromethane is stirred for 3 h at room temperature. 200 ml of water are then added and extracted with 3×100 ml of dichloromethane. The organic phase is washed with a potassium carbonate solution. The organic phase is dried over sodium sulphate and evaporated. The residue is crystallised from diisopropyl ether to produce 6 g of white solid (M.p.=150.5° C.)

reactant | 2-(4-chlorobenzylidene)-1-(1,2,4-triazol-1-ylmethyl)cyclohexan-1-ol | 9 g | ClC1=CC=C(C=C2C(CCCC2)(O)CN2N=CN=C2)C=C1 | C16H18ClN3O
reactant | m-chloroperbenzoic acid | 14.8 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | water | 200 ml | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-(4-chlorophenyl)-4-(1,2,4-triazol-1-ylmethyl)-4-hydroxy-1-oxaspiro[2.5]octane | 6 g | ClC1=CC=C(C=C1)C1OC12C(CCCC2)(O)CN2N=CN=C2 | C16H18ClN3O2
